US05552427
Preparation of N-(1-methylimidazol-2-yl)benzylideneamine:
N-(2-imidazolyl)benzylideneamine (0.2 g) was dissolved in DMF (4 ml), and potassium t-butoxide (0.15 g) and methyl iodide (0.18 g) were added. The mixture was stirred at room temperature for 3 hours. The solvent was evaporated, and water was added. The mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried over magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography (eluent: chloroform). The resulting crude crystals were recrystallized from diethyl ether--hexane to give the title compound (0.1 g, 49.9%) as pale yellow needles.

reactant | N-(2-imidazolyl)benzylideneamine | 0.2 g | N1C(=NC=C1)N=CC1=CC=CC=C1 | C10H9N3
reactant | potassium t-butoxide | 0.15 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 0.18 g | CI | CH3I
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | N-(1-methylimidazol-2-yl)benzylideneamine | 0.1 g, 49.9% | CN1C(=NC=C1)N=CC1=CC=CC=C1 | C11H11N3
